US09120749B2
tert-butyl 1-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyrimidin-2-yl)pyrrolidin-3-ylcarbamate
Following General procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (311 mg, 1 mmol) was reacted with tert-butyl 1-(5-aminopyrimidin-2-yl)pyrrolidin-3-ylcarbamate (418 mg, 1.5 mmol) to afford the desired product (336 mg, 61%) as a yellow solid: ESI MS m/z 553 [C26H29BrN6O3+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 1 mmol, 311 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | tert-butyl 1-(5-aminopyrimidin-2-yl)pyrrolidin-3-ylcarbamate | 1.5 mmol, 418 mg | NC=1C=NC(=NC1)N1CC(CC1)NC(OC(C)(C)C)=O | C13H21N5O2
product | tert-butyl 1-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyrimidin-2-yl)pyrrolidin-3-ylcarbamate | 336 mg, 61% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NC(=NC1)N1CC(CC1)NC(OC(C)(C)C)=O | C26H29BrN6O3
